US04670421
Ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate
A 125 g. sample of ethyl 4-[14-(trimethylsilyl)tetradecanamido]benzoate was dissolved into 1 l. dry tetrahydrofuran, and to this stirred solution under nitrogen was dropwise added 419 ml. 1M borane in tetrahydrofuran. The solution was refluxed for four hours, cooled, and poured with stirring into 11.2 l. ice-water which contained about 250 g. sodium chloride. The precipitate was filtered off and air dried. Crystallization from ethanol afforded the pure product, m.p. 91°-92° C.

reactant | ethyl 4-[14-(trimethylsilyl)tetradecanamido]benzoate | C[Si](CCCCCCCCCCCCCC(=O)NC1=CC=C(C(=O)OCC)C=C1)(C)C | C26H45NO3Si
reactant | borane | 1M | B | BH3
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)(C)C | C26H47NO2Si
